US08461175B2
A 10 ml round-bottomed flask equipped with a magnetic stirrer is charged with 57 mg of 5-(2,6-difluorophenyl)-3-{[1-(cyclopropylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile in 5 ml of DCM. After cooling to 0° C. using an ice bath, 0.3 ml of TFA is added and the mixture is stirred at RT for 3 h. It is concentrated under RP and the solid obtained is taken up in 20 ml of water and extracted with three times 20 ml of AcOEt, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a mixture of cyclohexane and AcOEt (80/20 by vol.), to give 16 mg of 5-(2,6-difluorophenyl)-3-{[1-(cyclopropylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile (yellow solid). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.89-1.04 (m, 4 H) 1.67 (m, 2 H) 2.10 (m, 2 H) 2.58 (m, 1 H) 3.00 (m, 2 H) 3.62 (m, 2 H) 3.82 (m, 1 H) 6.21 (d, J=7.8 Hz, 1 H) 7.34 (t, J=7.8 Hz, 2 H) 7.70 (m, 1 H), 8.19 (broad s, 1 H) 8.27 (dd, J=8.5, 1.5 Hz, 1 H) 8.56 (d, J=8.5 Hz, 1 H) 13.07 (s, 1 H) LC-MS-DAD-ELSD: 509 (+)=(M+H)(+).

reactant | 5-(2,6-difluorophenyl)-3-{[1-(cyclopropylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile | 57 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C#N)N(N=C2NC2CCN(CC2)S(=O)(=O)C2CC2)COCC[Si](C)(C)C | C31H36F2N6O3SSi
reactant | TFA | 0.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 5-(2,6-difluorophenyl)-3-{[1-(cyclopropylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile | 16 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C#N)NN=C2NC2CCN(CC2)S(=O)(=O)C2CC2 | C25H22F2N6O2S
